US08026257B2
7-Bromo-5-(trifluoromethyl)-1H-benzo[d][1,2,3]triazole.
To a cooled (15° C.) solution of 3-bromo-5-(trifluoromethyl)benzene-1,2-diamine (1.82 g, 7.14 mmol) in acetic acid (20 mL) was added a solution of sodium nitrite (0.517 g, 7.49 mmol) in water (10 mL). After 15 min, the product was collected by filtration and washed with 65% HOAc in water and air dried to give 1.5 g (79%) as a faint pink powder. 1H-NMR (4:1 CDCl3/CD3OD, 500 MHz) δ 8.08 (s, 1H), 7.71 (s, 1H), 4.23 (bs, 1H); 13C-NMR (4:1 CDCl3/CD3OD, 126 MHz) δ 139.9, 129.0 (q, J=33 Hz), 125.3, 123.3 (q, J=273 Hz), 113.4, 108.2. Mass spec.: 265.82 (MH)+.

reactant | 3-bromo-5-(trifluoromethyl)benzene-1,2-diamine | 7.14 mmol, 1.82 g | BrC1=C(C(=CC(=C1)C(F)(F)F)N)N | C7H6BrF3N2
reactant | sodium nitrite | 7.49 mmol, 0.517 g | N(=O)[O-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
product | 7-Bromo-5-(trifluoromethyl)-1H-benzo[d][1,2,3]triazole | BrC1=CC(=CC2=C1NN=N2)C(F)(F)F | C7H3BrF3N3
